US20010018518A1
5-bromo indole carboxylic acid (109 mg, 0.43 mmol) and PyBroP (173 mg, 0.37 mmol) were dissolved in 0.6 mL of DMF. The anthraniloylhydrazine on solid phase (45 mg, 1.19 mmol/g) was added followed by DMAP (58 mg, 0.48 mmol). The mixture was shaken at room temperature for 20-30 min and then was heated at 55-60 C for 18 h. The resin was filtered and washed with DMF, MeOH, CH2Cl2 (2×5 ml each) and dried. The produce on resin was then cleaved with 0.5 mL of TFA/CH2Cl2 (1:1, v/v) to give the N-aminoquinazolinone as a yellowish solid (10 mg) (M+495 by mass spec).

reactant | 5-bromo indole carboxylic acid | 0.43 mmol, 109 mg | BrC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6BrNO2
reactant | PyBroP | 0.37 mmol, 173 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | anthraniloylhydrazine | C(C=1C(N)=CC=CC1)(=O)NN | C7H9N3O
reactant | TFA CH2Cl2 | 0.5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.48 mmol, 58 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-aminoquinazolinone | 10 mg | NN1C(N=CC2=CC=CC=C12)=O | C8H7N3O
